US06825191B2
Synthesis of 4-(4-chlorobenzoyl)-7-cyano-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on
5.1 g (16.8 mmol) of ethyl (5-cyano-2-nitrobenzyl)aminoacetate was dissolved in 100 ml of dichloromethane. 2.4 ml (19.3 mmol) of 4-chlorobenzoyl chloride and 3.6 ml (25.2 mmol) of triethylamine were added to the obtained solution under cooling with ice, and they were stirred under cooling with ice for 2 hours. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the crude product thus obtained was dissolved in a mixture of 30 ml of ethyl acetate and 30 ml of THF. 300 mg of 10% palladium/carbon was added to the obtained solution and they were stirred in the presence of hydrogen at room temperature for 6 hours. The reaction solution was filtered through Celite. The solvent was evaporated and 1.4 g (3.8 mmol) of the obtained crude product was dissolved in 50 ml of dichloromethane. 834 mg (4.2 mmol) of 4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzaldehyde and 0.43 ml (7.6 mmol) of acetic acid were added to the obtained solution, and they were stirred at room temperature for 30 minutes. 2.0 g (9.5 mmol) of sodium triacetoxyborohydride was added to the reaction mixture, and they were stirred at room temperature overnight. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | ethyl (5-cyano-2-nitrobenzyl)aminoacetate | 16.8 mmol, 5.1 g | C(#N)C=1C=CC(=C(CNCC(=O)OCC)C1)[N+](=O)[O-] | C12H13N3O4
reactant | 4-chlorobenzoyl chloride | 19.3 mmol, 2.4 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | triethylamine | 25.2 mmol, 3.6 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
reactant | 4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzaldehyde | 4.2 mmol, 834 mg | N1(CC=CC1)C(=O)C1=CC=C(C=O)C=C1 | C12H11NO2
reactant | acetic acid | 7.6 mmol, 0.43 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 9.5 mmol, 2.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | palladium/carbon | 300 mg | [Pd] | Pd
product | 4-(4-chlorobenzoyl)-7-cyano-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=C(C=C3)C#N)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C29H23ClN4O3
